US07750163B2
3. 2-{(1E,3E,5E,7E)-7-[1-(5-Carboxypentyl)-3-methyl-5-sulpho-3-(4-sulphobutyl)-1,3-dihydro-2H-indol-2-ylidene]hepta-1,3,5-trienyl}-1-ethyl-3-methyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate (Compound 3)
1-Ethyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate salt (100 mg) and N-[5-(phenylamino)-2,4-penta-dienylidene) aniline mono hydrochloride (60 mg) were heated together in a mixture of acetic acid (5 ml), acetic anhydride (5 ml) and triethylamine (0.5 ml) at 120° C. for 30 mins. To the reaction mixture was then added 1-(5-carboxypentyl)-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate (100 mg) and pyridine (5 ml), the reaction mixture was heated for a further 30 mins at 120° C. On cooling the dark green reaction mixture was poured into an excess of ethyl acetate (250 ml) and the resultant solid filtered off, washed with ethyl acetate and dried. The product was purified by HPLC (Vydac protein & peptide C18 (250 mm×25 mm); flow rate; 10 ml/min; gradient of 5 to 15% B over 30 mins; eluant A=0.1% triethylamine in water and eluant B=0.1% triethylamine in methanol; detection at 650 nm and then changing the gradient of 2 to 25% B over 30 mins; eluant A=0.1% TFA in water and eluant B=0.1% TFA in acetonitrile). Fractions containing the desired product were pooled and the solvent removed under reduced pressure. The product was obtained as a dark green solid (7 mg).

reactant | 1-Ethyl-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 100 mg | C(C)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C16H23NO6S2
reactant | N-[5-(phenylamino)-2,4-penta-dienylidene) aniline mono hydrochloride | 60 mg | Cl.C1(=CC=CC=C1)NC=CC=CC=NC1=CC=CC=C1
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(5-carboxypentyl)-2,3-dimethyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 100 mg | C(=O)(O)CCCCC[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C20H29NO8S2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-{(1E,3E,5E,7E)-7-[1-(5-Carboxypentyl)-3-methyl-5-sulpho-3-(4-sulphobutyl)-1,3-dihydro-2H-indol-2-ylidene]hepta-1,3,5-trienyl}-1-ethyl-3-methyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 7 mg | C(=O)(O)CCCCCN1\C(\C(C2=CC(=CC=C12)S(=O)(=O)O)(CCCCS(=O)(=O)O)C)=C\C=C\C=C\C=C\C1=[N+](C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)[O-])CC | C41H54N2O14S4
